US07247625B2
6-[(4-bromophenyl)amino]-4-ethyl-1-methyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared 6-amino-4-ethyl-1-methyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 4-bromophenyl boronic acid according to the coupling procedure described in Example 1. MS (ESI) m/z 443/445 ([M+H]+); MS (ESI) m/z 441/443 ([M−H]−); Anal. calcd for C21H19BrN2O2S: C, 56.89; H 4.32; N 6.32. Found: C, 56.65; H, 4.09; N, 6.18.

reactant | 6-amino-4-ethyl-1-methyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(C=2SC=CC2)CC)C1 | C15H16N2O2S
reactant | 4-bromophenyl boronic acid | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
product | 6-[(4-bromophenyl)amino]-4-ethyl-1-methyl-4-thien-2-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one | BrC1=CC=C(C=C1)NC=1C=CC2=C(C(OC(N2C)=O)(C=2SC=CC2)CC)C1 | C21H19BrN2O2S
